US09126940B2
Step B: Preparation of (1E,4E)-2-amino-8-(3-morpholinopropyl)-N,N-dipropyl-3H-benzo[b]azepine-4-carboxamide
The title compound was prepared by these procedures using tert-butyl (1E,4E)-8-bromo-4-(dipropylcarbamoyl)-3H-benzo[b]azepin-2-ylcarbamate and 4-(3-(9-borabicyclo[3.3.1]nonan-9-yl)propyl)morpholine. Preparation of 3-nitro-4′-(pyrrolidine-1-carbonyl)biphenyl-4-carbaldehyde, except in this case a co-solvent of EtOH/toluene/water (2:1:1) and Cs2CO3 as a base were used: To a solution of 4-bromo-2-nitrobenzaldehyde (20.2 g, 87.9 mmol), 4-(pyrrolidine-1-carbonyl)phenylboronic acid (21.2 g, 96.7 mmol), and Pd(PPh3)4 (508 mg, 0.440 mmol) in toluene (200 mL) was added EtOH (40 mL) followed by Na2CO3 (70.0 mL, 140 mmol, 2 M aq solution) at room temperature. The resulting mixture was heated at 100° C. for 18 h. The reaction mixture was cooled to room temperature and the organic layer was separated. The aqueous layer was extracted with EtOAc (300 mL). The combined organic layers were washed with brine (500 mL), dried over MgSO4, filtered, and concentrated under reduced pressure to give the crude material that was combined with another batch of the crude material obtained from an additional run in the same reaction scale. The combined crude material was purified by silica gel flash column chromatography (CH2Cl2 to 1% MeOH in CH2Cl2). Preparation of (1E,4E)-2-amino-N-(2-amino-2-oxoethyl)-N-propyl-8-(4-(pyrrolidine-1-carbonyl)phenyl)-3H-benzo[b]azepine-4-carboxamide: A solution of the crude tert-butyl (1E,4E)-4-((2-amino-2-oxoethyl)(propyl)carbamoyl)-8-(4-(pyrrolidine-1-carbonyl)phenyl)-3H-benzo[b]azepin-2-ylcarbamate in anhydrous CH2Cl2 (15 mL) was bubbled with HCl (gas) for 4 h at 0° C. The resulting mixture was warmed to room temperature and stirred until the reaction was complete. To this mixture was added saturated NaHCO3 at 0° C. The aqueous layer was separated and extracted with CH2Cl2. The combined organic layers were dried over Na2SO4, filtered, and concentrated under reduced pressure to give the crude compound that was purified by silica gel flash column chromatography (MeOH:CH2Cl2=1:50).

reactant | tert-butyl (1E,4E)-8-bromo-4-(dipropylcarbamoyl)-3H-benzo[b]azepin-2-ylcarbamate | BrC=1C=CC\2=C(\N=C(/C\C(=C2)\C(N(CCC)CCC)=O)\NC(OC(C)(C)C)=O)C1 | C22H30BrN3O3
reactant | 4-(3-(9-borabicyclo[3.3.1]nonan-9-yl)propyl)morpholine | C12CCCC(CCC1)B2CCCN2CCOCC2 | C15H28BNO
reactant | 3-nitro-4′-(pyrrolidine-1-carbonyl)biphenyl-4-carbaldehyde | [N+](=O)([O-])C=1C=C(C=CC1C=O)C1=CC=C(C=C1)C(=O)N1CCCC1 | C18H16N2O4
reactant | Cs2CO3 | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 4-bromo-2-nitrobenzaldehyde | 87.9 mmol, 20.2 g | BrC1=CC(=C(C=O)C=C1)[N+](=O)[O-] | C7H4BrNO3
reactant | 4-(pyrrolidine-1-carbonyl)phenylboronic acid | 96.7 mmol, 21.2 g | N1(CCCC1)C(=O)C1=CC=C(C=C1)B(O)O | C11H14BNO3
reactant | Na2CO3 | 140 mmol, 2 M, 70.0 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | toluene | 200 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd(PPh3)4 | 0.440 mmol, 508 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | EtOH | 40 mL | CCO | C2H6O
solvent | EtOH toluene water | CCO.C1(=CC=CC=C1)C.O
product | (1E,4E)-2-amino-8-(3-morpholinopropyl)-N,N-dipropyl-3H-benzo[b]azepine-4-carboxamide | N/C=1/C\C(=C/C2=C(\N1)C=C(C=C2)CCCN2CCOCC2)\C(=O)N(CCC)CCC | C24H36N4O2
